US05281593
i) 7-Chloro-2-chloromethylquinoline
N-Chlorosuccinimide (3.0 g, 22.5 mmol) was added in portions over 1 hour to a stirred solution of 7-chloroquinaldine (3.3 g, 18.5 mmol) and dibenzoyl peroxide (0.1 g) in carbon tetrachloride (100 ml) under reflux. The mixture was heated under reflux for 24 hours adding further N-chlorosuccinimide (0.5 g and 1.0 g) after 3 hours and 20 hours. The mixture was cooled and filtered and the filtrate was extracted with 2M hydrochloric acid (5×40 ml). The extract was basified and re-extracted with dichloromethane and the extract was dried and evaporated to give the product contaminated with 7-chloroqinaldine.

reactant | N-Chlorosuccinimide | 22.5 mmol, 3.0 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 7-chloroquinaldine | 18.5 mmol, 3.3 g | ClC1=CC=C2C=CC(=NC2=C1)C | C10H8ClN
reactant | dibenzoyl peroxide | 0.1 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | N-chlorosuccinimide | 0.5 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | carbon tetrachloride | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 7-Chloro-2-chloromethylquinoline | ClC1=CC=C2C=CC(=NC2=C1)CCl | C10H7Cl2N
